US07253286B2
4-(4-nitrophenoxy)-2-phenylpyridine (490 mg), iron powder (1 g), ammonium chloride (2 g), ethanol (10 ml), dimethylformamide (10 ml) and water (5 ml) were stirred at 100° C. for 10 minutes. The mixture was filtered with celite, water was added to the filtrate, and extraction was performed with ethyl acetate. The organic layer was washed 5 times with water, and then the solvent was distilled off under reduced pressure to obtain 4-(2-phenylpyridin-4-yl)oxyaniline (460 mg) as a brown oil.

reactant | 4-(4-nitrophenoxy)-2-phenylpyridine | 490 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)C2=CC=CC=C2)C=C1 | C17H12N2O3
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | iron | 1 g | [Fe] | Fe
solvent | water | 5 ml | O | H2O
product | 4-(2-phenylpyridin-4-yl)oxyaniline | 460 mg | C1(=CC=CC=C1)C1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C17H14N2O
